US08455613B2
Synthesis of 4-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)butanoic acid
Combined 4-(4-bromophenyl)butyric acid (10 g, 41.13 mmol), bis(pinacolato)diboron (15.67 g, 61.70 mmol), potassium acetate (12.11 g, 123.4 mmol), and DMSO (100 mL), and purged mixture with nitrogen for 10 minutes at room temperature. To reaction under nitrogen, added Pd(dppf)Cl2 and purged reaction again with nitrogen for another 20 minutes at room temperature. The reaction was then refluxed at 80° C. over night. After cooling to room temperature, the reaction was quenched with water and stirred for 1.0 hour. The solids formed were filtered using Buchner funnel. The crude solids were purified via column chromatography (8.5:1.5, hexanes:EtOAc). The desired fractions were collected and concentrated via vacuo, and triturated with hexanes and filtered to give the desired white solids (6.7 g, 56%).

reactant | 4-(4-bromophenyl)butyric acid | 41.13 mmol, 10 g | BrC1=CC=C(C=C1)CCCC(=O)O | C10H11BrO2
reactant | bis(pinacolato)diboron | 61.70 mmol, 15.67 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 123.4 mmol, 12.11 g | C(C)(=O)[O-].[K+]
catalyst | Pd(dppf)Cl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | DMSO | 100 mL | CS(=O)C | C2H6OS
product | 4-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)butanoic acid | 6.7 g, 56% | CC1(OB(OC1(C)C)C1=CC=C(C=C1)CCCC(=O)O)C | C16H23BO4
